US06265411B1
A solution of 5-(2-morpholinoethylaminosulphonyl)oxindole (363 mg, 1.1 mmol) in DMF (3 ml) was added dropwise to a suspension of sodium hydride (89 mg, 2.2 mmol, prewashed with hexane) and the mixture stirred for 30 minutes at ambient temperature. 4-Chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline (100 mg, 0.37 mmol), (prepared as described for the starting material in Example 2), was added and the mixture heated at 50° C. for 30 minutes. DMF (5 ml) and DMSO (1.5 ml) were added and the mixture heated at 60° C. for 45 minutes, the volatiles were removed by evaporation and the residue was partitioned between methylene chloride and saturated aqueous ammonium chloride solution. The organic layer was separated, washed with brine, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/acetonitrile/methanol (60/35/5 followed by 60/30/10). The purified product was triturated with ether, collected by filtration and dried under vacuum. The solid was dissolved in methylene chloride/methanol and SM ethereal hydrogen chloride (1.5 ml) was added. The mixture was stirred for 30 minutes at ambient temperature, the volatiles were removed by evaporation and the solid residue was triturated with ether, collected by filtration and dried under vaccum to give 6-methoxy-7-(2-methoxyethoxy)4-(5-(2-morpholinoethylaminosulphonyl)oxindol-3-yl)quinazoline hydrochloride (110 mg, 46%).

reactant | 5-(2-morpholinoethylaminosulphonyl)oxindole | 1.1 mmol, 363 mg | O1CCN(CC1)CCNS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C14H19N3O4S
reactant | sodium hydride | 2.2 mmol, 89 mg | [H-].[Na+]
reactant | 4-Chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline | 0.37 mmol, 100 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCOC | C12H13ClN2O3
reactant | DMSO | 1.5 ml | CS(=O)C | C2H6OS
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 6-methoxy-7-(2-methoxyethoxy)4-(5-(2-morpholinoethylaminosulphonyl)oxindol-3-yl)quinazoline hydrochloride | 110 mg, 46% | Cl.COC=1C=C2C(=NC=NC2=CC1OCCOC)C1C(NC2=CC=C(C=C12)S(=O)(=O)NCCN1CCOCC1)=O | InChI=1S/C26H31N5O7S.ClH/c1-35-11-12-38-23-15-21-19(14-22(23)36-2)25(28-16-27-21)24-18-13-17(3-4-20(18)30-26(24)32)39(33,34)29-5-6-31-7-9-37-10-8-31;/h3-4,13-16,24,29H,5-12H2,1-2H3,(H,30,32);1H
